US07919519B2
A mixture of 2-fluoro-4-formyl-N-(2-hydroxy-5-(phenylthio)phenyl)benzamide (0.180 g, 0.490 mmol) and pyridinium p-toluenesulfonate (0.123 g, 0.490 mmol) in 5.0 mL toluene was heated to 130° C. in a sealed tube for a total of 6 h. The reaction was cooled and was partitioned between 1N NaOH and EtOAc. The organic layer was washed 1× brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give a solid that was purified by silica gel chromatography, 0-30-60% EtOAc/hexanes to give 3-fluoro-4-(5-(phenylthio)benzo[d]oxazol-2-yl)benzaldehyde as a yellow solid. MS (ESI) m/z: Calculated: 349.1; Observed: 350.0 (M++1).

reactant | 2-fluoro-4-formyl-N-(2-hydroxy-5-(phenylthio)phenyl)benzamide | 0.490 mmol, 0.180 g | FC1=C(C(=O)NC2=C(C=CC(=C2)SC2=CC=CC=C2)O)C=CC(=C1)C=O | C20H14FNO3S
reactant | pyridinium p-toluenesulfonate | 0.490 mmol, 0.123 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-4-(5-(phenylthio)benzo[d]oxazol-2-yl)benzaldehyde | FC=1C=C(C=O)C=CC1C=1OC2=C(N1)C=C(C=C2)SC2=CC=CC=C2 | C20H12FNO2S
